US05051508
1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydro pyrrolo-[3,2-c]quinoline (1.54 g, 5 mmol) and sodium methanethiolate (1.40 g, 20 mmol) in 2-propanol (25 ml) were heated at 170° in a pressure vessel for 18 hours. The solvent was evaporated, the residue taken up in dichloromethaneand washed with sodium bicarbonate solution. Chromatography (silica gel, dichloromethane) and crystallisation from methanol gave 1-(2-methylphenyl)-4-methylthio-6-methyl-2,3-dihydropyrrolo-[3,2-c]quinoline (0.8 g), m.p. 111°-113°.

reactant | 1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydro pyrrolo-[3,2-c]quinoline | 5 mmol, 1.54 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H17ClN2
reactant | sodium methanethiolate | 20 mmol, 1.40 g | C[S-].[Na+]
solvent | 2-propanol | 25 ml | CC(C)O | C3H8O
product | 1-(2-methylphenyl)-4-methylthio-6-methyl-2,3-dihydropyrrolo-[3,2-c]quinoline | 0.8 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)SC | C20H20N2S
